US03966801
A solution of β-(2'-chloro-4-biphenylyl)propionyl chloride (28 g.) in anhydrous ether 1 l. is cooled to -70°C. To it is added dropwise a solution of 3M methylmagnesium bromide in ether (34 ml.). The reaction is stirred vigorously throughout. When addition of the grignard is complete (approx. 1 hr), the mixture is allowed to come to room temperature and is decomposed by adding carefully a saturated ammonium chloride solution (approx. 500 ml). The ether phase is washed with brine, dried over sodium sulfate, evaporated in vacuo and the residue distilled to yield 4-(2'-chloro-4-biphenylyl)butan-2-one.

reactant | β-(2'-chloro-4-biphenylyl)propionyl chloride | 28 g | ClC1=C(C=CC=C1)C1=CC=C(C=C1)CCC(=O)Cl | C15H12Cl2O
reactant | methylmagnesium bromide | 3M | C[Mg]Br
reactant | ammonium chloride | approx. 500 ml | [Cl-].[NH4+]
solvent | ether | 1 l | CCOCC | C4H10O
solvent | ether | 34 ml | CCOCC | C4H10O
product | 4-(2'-chloro-4-biphenylyl)butan-2-one | ClC1=C(C=CC=C1)C1=CC=C(C=C1)CCC(C)=O | C16H15ClO
